US08877980B2
(50 g, 0.228 mol) of 2-aminophenyl boronic acid pinacol ester and (110 g, 0.798 mole) of potassium carbonate were charged into 10 L, 3 necks RBF connected with overhead stirrer, thermometer and additional funnel, 5 L of Chloroform, synthetic grade was loaded then stirred for 10±5 minutes at 25±5° C. after that (115 g, 50 mL, 0.57 mol) of Bromoacetyl bromide was added drop wise during 10±5 minutes while the mixture stirred. After end of loading, the mixture was stirred for 1-2 hrs at 25±5° C., the reaction completion was monitored by TLC (Ethyl acetate:n-hexane, 15:85 v/v). Afterward, 4-5 L of purified water was loaded then transferred to 10 L separatory funnel and steeled down for 10 minutes, chloroform layer (lower) was separated and dried over 50 g of sodium sulfate and filtered. The filtrate solution was concentrated under vacuum to dryness. The residue was recrystallized from diethyl ether to get pure 2-(bromoacetamido)phenylboronic acid intermediate, the product was characterized by 1H-NMR, 13C-NMR, mass and elemental analysis.

reactant | 2-aminophenyl boronic acid pinacol ester | 0.228 mol, 50 g | NC1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | potassium carbonate | 0.798 mole, 110 g | C([O-])([O-])=O.[K+].[K+]
reactant | Chloroform | 5 L | C(Cl)(Cl)Cl | CHCl3
reactant | Bromoacetyl bromide | 0.57 mol, 50 mL, 115 g | BrCC(=O)Br | C2H2Br2O
solvent | water | 4-5 L | O | H2O
solvent | n-hexane | CCCCCC | C6H14
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(bromoacetamido)phenylboronic acid | BrCC(=O)NC1=C(C=CC=C1)B(O)O | C8H9BBrNO3
